US04782080
Methyl o-mercaptophenylmalonamate (4.5 g, 0.02 m) and dried dimethylformamide (50 ml) at 10° C. is treated with sodium methoxide (3.2 g, 0.06 m) under a nitrogen atmosphere, and the resultant mixture allowed to stir at ambient temperature until no starting malonamate remains (thin-layer analysis). The reaction mixture is added to a stirred excess dilute hydrochloric acid-ice mixture, aged and filtered to yield 2-hydroxybenzo(b)thiophene-3-carboxamide.

reactant | Methyl o-mercaptophenylmalonamate | 4.5 g | SC1=C(C=CC=C1)C(C(=O)OC)C(=O)N | C10H11NO3S
reactant | sodium methoxide | 3.2 g | C[O-].[Na+]
reactant | malonamate | C(CC(=O)N)(=O)[O-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-hydroxybenzo(b)thiophene-3-carboxamide | OC1=C(C2=C(S1)C=CC=C2)C(=O)N | C9H7NO2S
